US04873251
4-Chloro-N-(4-chlorobenzoyl)-N-[4-[[2-(dimethylamino)-2-oxoethyl]amino]-3-pyridinyl]benzamide hydrate [1:1]
A mixture of N,N-dimethyl-2-[(3-nitro-4-pyridinyl)amino]-acetamide (11.0 g, 0.05 mole) and 5% palladium on carbon catalyst (1.1 g) in 250 ml of tetrahydrofuran was hydrogenated in a small Parr apparatus while heating at 50° C. The reaction mixture was heated with methanol and filtered through a Celite pad. The pad was washed with boiling methanol. The filtrate was evaporated to a solid. The solid was dissolved in acetonitrile (500 ml) and treated with p-chlorobenzoyl chloride (5.97 ml, 0.047 mole) and triethylamine (6.52 ml, 0.047 mole). The reaction mixture was stirred at ambient temperature overnight. The reaction mixture was filtered and the filtrate was evaporated. The solid residue was partitioned between methylene chloride and water (2×). The methylene chloride layer was dried and evaporated to dryness. The residue was dissolved in ethyl acetate, treated with charcoal, filtered through Celite, and concentrated. A crystalline precipitate was collected by filtration, washed with isopropyl ether and dried at 50° C. under high vacuum to give 4.65 g of solids (40%), mp 175°-176° C.

reactant | N,N-dimethyl-2-[(3-nitro-4-pyridinyl)amino]-acetamide | 0.05 mole, 11.0 g | CN(C(CNC1=C(C=NC=C1)[N+](=O)[O-])=O)C | C9H12N4O3
reactant | methanol | CO | CH4O
reactant | p-chlorobenzoyl chloride | 0.047 mole, 5.97 ml | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | triethylamine | 0.047 mole, 6.52 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium on carbon | 1.1 g | [Pd] | Pd
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
product | 4-Chloro-N-(4-chlorobenzoyl)-N-[4-[[2-(dimethylamino)-2-oxoethyl]amino]-3-pyridinyl]benzamide hydrate | 4.65 g, 40% | O.ClC1=CC=C(C(=O)N(C=2C=NC=CC2NCC(=O)N(C)C)C(C2=CC=C(C=C2)Cl)=O)C=C1 | InChI=1S/C23H20Cl2N4O3.H2O/c1-28(2)21(30)14-27-19-11-12-26-13-20(19)29(22(31)15-3-7-17(24)8-4-15)23(32)16-5-9-18(25)10-6-16;/h3-13H,14H2,1-2H3,(H,26,27);1H2
